US05084453
10 g (178 mmol) of potassium hydroxide was dissolved in 400 ml of ethanol, and 20 g (119 mmol) of protocatechuhydrazide was added thereto under stirring at a temperature of at most 5° C. To this solution, 28.0 ml of carbon disulfide was dropwise added over a period of 10 minutes at a temperature of at most 10° C., and the mixture was stirred at a temperature of from 0 to 10° C. for 30 minutes. Then, the precipitates were collected by filtration, washed with ethanol and dried to obtain 25.3 g (yield: 75.3%) of potassium 3-protocatechuoyldithiocarbazate.

reactant | potassium hydroxide | 178 mmol, 10 g | [OH-].[K+]
reactant | protocatechuhydrazide | 119 mmol, 20 g | C(C1=CC(O)=C(O)C=C1)(=O)NN | C7H8N2O3
reactant | carbon disulfide | 28.0 ml | C(=S)=S | CS2
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | potassium 3-protocatechuoyldithiocarbazate | 25.3 g, yield: 75.3% | C(C1=CC(O)=C(O)C=C1)(=O)NNC(=S)[S-].[K+] | InChI=1S/C8H8N2O3S2.K/c11-5-2-1-4(3-6(5)12)7(13)9-10-8(14)15;/h1-3,11-12H,(H,9,13)(H2,10,14,15);/q;+1/p-1
